US06887874B2
Methanesulfonyl chloride (966 μl, 12.5 mmol) was added dropwise to a solution of 1-benzylpiperazine (2 g, 11.3 mmol) and triethylamine (1.74 ml, 12.5 mmol) in dry methylene chloride (30 ml) cooled at 0° C. After stirring for 1 hour at ambient temperature, the mixture was partitioned between water and methylene chloride. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography eluting with methylene chloride/ethyl acetate (7/3) to give 1-benzyl-4-methylsulfonylpiperazine (2.5 g, 87%).

reactant | Methanesulfonyl chloride | 12.5 mmol, 966 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-benzylpiperazine | 11.3 mmol, 2 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 12.5 mmol, 1.74 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-methylsulfonylpiperazine | 2.5 g, 87% | C(C1=CC=CC=C1)N1CCN(CC1)S(=O)(=O)C | C12H18N2O2S
